US09079861B2
To a solution of 3-((R)-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)-2-oxohexa hydropyrimidin-4-yl)propyl methanesulfonate (58 mg, 0.11 mmol) and methanesulfonamide (105 mg, 1.10 mmol) in acetone (10 mL) was added K2CO3 (31 mg, 0.22 mmol), and the mixture was refluxed overnight. The reaction was quenched with water, and the mixture was extracted with EtOAc. After removal of the solvent, the mixture was extracted with EtOAc, and the organic solution was washed with brine, dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by preparative TLC and preparative HPLC to give N-(3-((R)-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)-2-oxohexahydropyrimidin-4-yl)propyl)methanesulfonamide (8 mg, 14%). 1H NMR (CDCl3): 1.18□m, 1H), 1.45 (d, 3H), 1.50 (m, 1H), 1.88-2.16 (m, 5H), 2.84 (m, 4H), 3.02 (m, 2H), 4.70 (s, 1H), 5.63 (m, 1H), 6.88-6.98 (m, 4H), 7.12 (m, 2H), 7.30 (m, 2H). LC-MS Method 1 tR=1.146 min, m/z=512.

reactant | 3-((R)-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)-2-oxohexa hydropyrimidin-4-yl)propyl methanesulfonate | 0.11 mmol, 58 mg | CS(=O)(=O)OCCC[C@]1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)Br)=O)C1=CC=C(C=C1)F | C22H26BrFN2O4S
reactant | methanesulfonamide | 1.10 mmol, 105 mg | CS(=O)(=O)N | CH5NO2S
reactant | K2CO3 | 0.22 mmol, 31 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | N-(3-((R)-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)-2-oxohexahydropyrimidin-4-yl)propyl)methanesulfonamide | 8 mg, 14% | BrC1=CC=C(C=C1)[C@H](C)N1C(N[C@](CC1)(C1=CC=C(C=C1)F)CCCNS(=O)(=O)C)=O | C22H27BrFN3O3S
